data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_482942_1,[C:1]([C:2]([H:15])([H:16])[H:17])([N:4]([C:3]([H:18])([H:19])[H:20])[H:11])(/[C:5](=[C:7](/[C:6](=[O:9])[H:13])[H:14])[H:12])[O:8][H:10]>>[C:1](\[C:2]([H:15])([H:16])[H:17])(=[C:5](/[C:7]([N:4]([C:3]([H:18])([H:19])[H:20])[H:11])([C:6](=[O:9])[H:13])[H:14])[H:12])[O:8][H:10],68.15716749998813
MR_598266_0,[C:1]([C:2](/[C:3](=[N:6]/[H:10])[H:11])=[N:5]/[H:9])([N:4]=[O:7])=[O:8]>>[C:1](/[C:2]([N:4]=[O:7])=[N:5]\[H:9])(/[C:3](=[N:6]/[H:10])[H:11])=[O:8],53.51320000000726
MR_240568_1,[C:1]([C:4]([N:6]([H:12])[H:13])=[O:9])(/[C:8](=[C:7](\[N:3]([C:2]([H:18])([H:19])[H:20])[N:5]([H:10])[H:11])[H:14])[H:17])([H:15])[H:16]>>[C:1](=[C:8]([C:7]([N:3]([C:2]([H:18])([H:19])[H:20])[N:5]([H:10])[H:11])([C:4]([N:6]([H:12])[H:13])=[O:9])[H:14])[H:17])([H:15])[H:16],71.12022250003335
MR_326739_0,[C:1]([N:3]([H:11])[H:12])(/[C:5](=[C:4](/[O:6][H:8])[H:13])[H:14])=[N:7]\[N:2]([H:9])[H:10]>>[C:1]1([N:3]([H:11])[H:12])=[C:5]([H:14])[C:4]([O:6][H:8])([H:13])[N:7]1[N:2]([H:9])[H:10],35.04022749999166
MR_119603_1,[N:1]1([H:10])[C:6](/[C:2]([N:3]([H:11])[H:12])=[N:4]/[H:14])([H:16])[N:8]1[C:5]([O:7][H:9])([H:13])[H:15]>>[N:1]([C:6](=[C:2]([N:3]([H:11])[H:12])[N:4]([H:13])[H:14])[H:16])(/[N:8]=[C:5](\[O:7][H:9])[H:15])[H:10],64.78058999998822
MR_476168_0,[C:1]([O:6][N:2](/[C:3]([N:5]([H:10])[H:11])=[N:7]\[H:12])[N:4]([H:8])[H:9])([H:13])([H:14])[H:15]>>[C:1]([O:6]/[C:3]([N:2]([N:4]([H:8])[H:9])[N:5]([H:10])[H:11])=[N:7]\[H:12])([H:13])([H:14])[H:15],46.35279750000123
MR_504996_0,[C:1](/[C:4](=[C:2]([O:5][H:8])/[N:6]=[N:7]/[N:3]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:4]1([H:11])[C:2]([O:5][H:8])=[N:6][N:7]1[N:3]([H:9])[H:10])([H:12])([H:13])[H:14],34.70200499995386
MR_10163_0,[C:1]([C:2]([O:7][C:4]([H:16])([H:17])[H:18])([H:11])[H:12])([N:5]([H:9])[H:10])([O:6][C:3]([H:13])([H:14])[H:15])[H:8]>>[C:1]([C:2]([O:6][C:3]([H:13])([H:14])[H:15])([H:11])[H:12])([N:5]([H:9])[H:10])([O:7][C:4]([H:16])([H:17])[H:18])[H:8],67.18705249997626
MR_90959_1,[C:1]([C:2]([H:13])([H:14])[H:15])([N:4]([H:8])[H:9])([N:5]([H:10])[H:11])/[N:7]=[C:6](\[C:3]([H:16])([H:17])[H:18])[H:12]>>[C:1](\[C:2]([H:13])([H:14])[H:15])([N:4]([H:8])[H:9])=[N:7]/[C@:6]([C:3]([H:16])([H:17])[H:18])([N:5]([H:10])[H:11])[H:12],54.95017500001751
MR_441458_2,[C:1]([C:3]1([N:6]([H:13])[H:14])[C:2]([H:16])([H:17])[N:7]1[H:15])([N:4]([H:11])[H:12])([N:5]([H:9])[H:10])[H:8]>>[C:1]([C:2](/[C:3]([N:6]([H:13])[H:14])=[N:7]/[H:15])([H:16])[H:17])([N:4]([H:11])[H:12])([N:5]([H:9])[H:10])[H:8],67.79196249998279
MR_382407_1,[C:1]1([N:6]([H:11])[H:12])([H:10])[C:2]([H:13])([H:14])[C:3]([H:16])([H:17])[C:7]1([O:9][C:5]([C:4]([H:18])([H:19])[H:20])=[O:8])[H:15]>>[C:1]([C:2]([C:3]([C:7](=[O:9])[H:15])([H:16])[H:17])([H:13])[H:14])([C:5]([C:4]([H:18])([H:19])[H:20])=[O:8])([N:6]([H:11])[H:12])[H:10],66.84129999999314
MR_212220_0,[C:1](/[C:7](=[C:3](/[N:6]([H:13])[H:14])[N:8]=[C:2]([N:4]([H:9])[H:10])[N:5]([H:11])[H:12])[H:15])([H:16])([H:17])[H:18]>>[C:1]([C:7]1([H:15])[C:2]([N:4]([H:9])[H:10])([N:5]([H:11])[H:12])[N:8]=[C:3]1[N:6]([H:13])[H:14])([H:16])([H:17])[H:18],42.11089750001023
MR_631293_1,[C:1]([N:3]([N:2](/[C:4](=[N:7]\[H:10])[H:11])[O:5][H:9])[N:6][O:8])([H:12])([H:13])[H:14]>>[C:1]([N:3]([N:2]([O:5][H:9])[N:6]=[O:8])/[C:4](=[N:7]\[H:10])[H:11])([H:12])([H:13])[H:14],66.92915000002102
MR_193974_1,[C:1]([N:5]([C:2]([H:11])([H:12])[H:13])[H:8])([N:7]=[C:6]([C:3]([H:14])([H:15])[H:18])[C:4]([H:16])([H:17])[H:19])([H:9])[H:10]>>[C:1](=[N:7][C:6]([C:3]([H:14])([H:15])[H:18])([C:4]([H:16])([H:17])[H:19])[N:5]([C:2]([H:11])([H:12])[H:13])[H:8])([H:9])[H:10],58.93166249998828
MR_169609_0,[C:1](/[C:6]([C:5](=[C:7]([C:2]([H:17])([H:18])[H:19])[C:3]([H:16])([H:20])[H:21])[N:8]([H:10])[H:11])=[C:9](/[C:4]([H:22])([H:23])[H:24])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:6]1=[C:5]([N:8]([H:10])[H:11])[C:7]([C:2]([H:17])([H:18])[H:19])([C:3]([H:16])([H:20])[H:21])[C:9]1([C:4]([H:22])([H:23])[H:24])[H:12])([H:13])([H:14])[H:15],44.33852249998608
MR_311004_1,[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([H:14])([H:18])[H:19])([N:5]([N:6]([H:11])[H:12])/[C:7](=[N:9]/[C:4]([H:20])([H:21])[H:22])[H:13])[O:8][H:10]>>[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([H:14])([H:18])[H:19])([O:8][H:10])[N:9]([C:4]([H:20])([H:21])[H:22])/[C:7](=[N:5]\[N:6]([H:11])[H:12])[H:13],61.48119500000746
MR_208341_0,[C:1]([C:2]([O:5][H:8])=[O:7])([O:4][N:3]([H:9])[H:10])=[O:6]>>[C:1]([N:3]([H:9])[H:10])([O:4][C:2]([O:5][H:8])=[O:7])=[O:6],67.55351249997844
MR_46718_1,[C:1]([C:4]([H:17])([H:18])[H:19])([N:5]([C:3]([H:14])([H:15])[H:16])[O:7][C:2]([H:11])([H:12])[H:13])([N:6]([H:9])[H:10])[H:8]>>[C:1]([C:4]([H:17])([H:18])[H:19])([N:5]([C:3]([H:14])([H:15])[H:16])[H:8])([N:6]([H:9])[H:10])[O:7][C:2]([H:11])([H:12])[H:13],63.43021000000903
MR_545255_0,[N:1](/[C:3](=[C:2](/[N:4]([H:11])[H:12])[O:7][H:9])[N:5]([H:13])[H:14])([O:6][H:8])[H:10]>>[N:1](=[C:3](/[C:2]([N:4]([H:11])[H:12])([O:7][H:9])[H:10])[N:5]([H:13])[H:14])\[O:6][H:8],49.369817500017206
